US04710392
31.5 g of crotonaldehyde are added dropwise, at -20° C. in the course of 75 minutes, to 32 g of butyllithium, dissolved in 145.8 g of toluene. After the reaction has proceeded for two hours, the temperature increasing slowly to 0° C., 250 ml of water are carefully added dropwise. The aqueous phase is separated off and washed once with 100 ml of toluene. The combined organic phases are washed neutral with water, dried over sodium sulphate and distilled. 46 g of oct-2-en-4-ol of boiling point 68°-72° C./13 mb are obtained. According to the gas chromatogram, the purity is 96%. The NMR spectrum confirms the expected structure.

reactant | crotonaldehyde | 31.5 g | C(\C=C\C)=O | C4H6O
reactant | butyllithium | 32 g | C(CCC)[Li]
reactant | water | 250 ml | O | H2O
solvent | toluene | 145.8 g | C1(=CC=CC=C1)C | C7H8
product | oct-2-en-4-ol | 46 g | CC=CC(CCCC)O | C8H16O
